US05519139
Potassium carbonate (0.27 g, 1.95 mmol) was added to a solution of 4-(2-(4-butoxyphenyl)ethylamino)-6-ethylpyrimidine-5-carboxylic acid (0.34 g, 0.99 mmol) in ethyl methyl ketone (20 ml), and methyl iodide (0.42 g, 2.96 mmol) was added. After stirring at 65° C. for 3 hours, the mixture was cooled to room temperature. The resulting solid was filtered off and the solvent was evaporated. The residue was purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (=8/2) to give the desired methyl 4-(2-(4-butoxyphenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.26 g, 73%).

reactant | Potassium carbonate | 1.95 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-(4-butoxyphenyl)ethylamino)-6-ethylpyrimidine-5-carboxylic acid | 0.99 mmol, 0.34 g | C(CCC)OC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)O)CC | C19H25N3O3
reactant | methyl iodide | 2.96 mmol, 0.42 g | CI | CH3I
solvent | ethyl methyl ketone | 20 ml | CC(=O)CC | C4H8O
product | methyl 4-(2-(4-butoxyphenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 0.26 g, 73% | C(CCC)OC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OC)CC | C20H27N3O3
